US03983128
14.8 g. of [[(1-Ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester (0.05 mol.) are dissolved in 50 g. of diphenyl ether. The reaction mixture is heated to 235°-250° (bath temperature) and allowed to react at this temperature for 1 to 2 hours, while the resulting ethanol is continuously distilled off. The last part of the alcohol is removed by means of a water aspirator. The diphenyl ether is separated by distillation with a fractionating column in vacuo. The 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester is obtained at b.p. 0.1-0.5 125°-129°, yield 10.7 g. (86%), m.p. 91°-93°. The compound is recrystallized from ligroin (90°-100°), m.p. 93°-94°.

reactant | [[(1-Ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester | 0.05 mol | C(C)OC(C(C(=O)OCC)=CNC1=CC(=NN1CC)C)=O | C14H21N3O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)O | C12H15N3O3
